US05359098
6-[8-(4-Hydroxypiperidinyl)octoxy]-2-phenyl-4H-1-benzopyran-4-one
The compound was prepared by a method similar to Example 2 from 6-hydroxyflavone, 1,8-dibromooctane and 4-hydroxypiperidine: mp 57°-58° C.

reactant | 6-hydroxyflavone | OC=1C=C2C(C=C(OC2=CC1)C1=CC=CC=C1)=O | C15H10O3
reactant | 1,8-dibromooctane | BrCCCCCCCCBr | C8H16Br2
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 6-[8-(4-Hydroxypiperidinyl)octoxy]-2-phenyl-4H-1-benzopyran-4-one | OC1CCN(CC1)CCCCCCCCOC=1C=CC2=C(C(C=C(O2)C2=CC=CC=C2)=O)C1 | C28H35NO4
